US06121271
(2-Benzyl-4,5-dimethyl-furan-3 -yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone
The title compound was prepared according to the procedure in Example 1, step 4 using 3-cyclopentyl-4-methoxy-benzoic acid (10.00 g, 45.4 mmol, RN-59216-82-9), oxalyl chloride (4.4 mL, 50.4 mmol), N,N-DMF (5 drops), tin(IV) chloride (5.8 mL, 49.7 mmol) and 2-benzyl-4,5-dimethylfuran (10.1 g, 54.3 mmol) in CH2Cl2. The final organic extracts were concentrated to give 18.8 g of the title compound, synthetically pure. 1H NMR: consistent.

reactant | 3-cyclopentyl-4-methoxy-benzoic acid | 45.4 mmol, 10.00 g | C1(CCCC1)C=1C=C(C(=O)O)C=CC1OC | C13H16O3
reactant | oxalyl chloride | 50.4 mmol, 4.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin(IV) chloride | 49.7 mmol, 5.8 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-benzyl-4,5-dimethylfuran | 54.3 mmol, 10.1 g | C(C1=CC=CC=C1)C=1OC(=C(C1)C)C | C13H14O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2-Benzyl-4,5-dimethyl-furan-3 -yl)-(3-cyclopentyl-4-methoxy-phenyl)-methanone | 18.8 g | C(C1=CC=CC=C1)C=1OC(=C(C1C(=O)C1=CC(=C(C=C1)OC)C1CCCC1)C)C | C26H28O3
